US07482456B2
Step 4: 5-bromo-3-(3-methyl-1,2,4-oxadiazol-5-yl)pyridin-2-ol
A solution 3-(3-methyl-1,2,4-oxadiazol-5-yl)pyridin-2-ol in AcOH (0.2M) and bromine (1.2 eq) was stirred 18 h at 20° C. and then concentrated. The residue was co-evaporated with benzene (2×) and used as such in the next step.

reactant | 3-(3-methyl-1,2,4-oxadiazol-5-yl)pyridin-2-ol | CC1=NOC(=N1)C=1C(=NC=CC1)O | C8H7N3O2
reactant | bromine | 1.2 eq | BrBr | Br2
solvent | AcOH | 0.2M | CC(=O)O | C2H4O2
product | 5-bromo-3-(3-methyl-1,2,4-oxadiazol-5-yl)pyridin-2-ol | BrC=1C=C(C(=NC1)O)C1=NC(=NO1)C | C8H6BrN3O2
